US07781441B2
a) [4-Chloro-2-(1-hydroxy-ethyl)-phenyl]-carbamic acid tert-butyl ester
At −78° C. under nitrogen 1.6 M butyllithium solution in hexane (4.89 ml, 7.8 mmol) were added dropwise to [2-bromo-4-chloro-phenyl]-carbamic acid tert-butyl ester (1.09 g, 3.56 mmol) in THF (20 ml). The reaction was stirred for 15 minutes at −78° C. and acetaldehyde (235 mg, 5.33 mmol) was added dropwise. After stirring for 15 minutes at −78° C. saturated aqueous ammonium chloride solution was added and the reaction was allowed to warm to room temperature. The reaction was diluted with water and extracted twice with diethyl ether. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated to yield the crude product which was purified by column chromatography (heptane:ethyl acetate=4:1). The product was isolated as a colorless viscous oil (525 mg, 54%).

reactant | hexane | 7.8 mmol, 4.89 ml | CCCCCC | C6H14
reactant | [2-bromo-4-chloro-phenyl]-carbamic acid tert-butyl ester | 3.56 mmol, 1.09 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)Br)=O | C11H13BrClNO2
reactant | acetaldehyde | 5.33 mmol, 235 mg | C(C)=O | C2H4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [4-Chloro-2-(1-hydroxy-ethyl)-phenyl]-carbamic acid tert-butyl ester | 525 mg, 54% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)C(C)O)=O | C13H18ClNO3
